US09169221B2
Tert-butyl 5-chloro-2-hydroxyphenylcarbamate
Di-tert-butyldicarbonate (11 mmol) was added to a stirred solution of 2-amino-4-chlorophenol (10 mmol) in distilled water (30 mL) the reaction mixture was further stirred for 15 hours at RT. The product was filtered, washed with water to give the targeted compound (88%) as a white solid.

reactant | Di-tert-butyldicarbonate | 11 mmol | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-4-chlorophenol | 10 mmol | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
solvent | water | 30 mL | O | H2O
product | Tert-butyl 5-chloro-2-hydroxyphenylcarbamate | 88% | ClC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)O | C11H14ClNO3
